** sch_path: /foss/pdks/ihp-sg13g2/libs.tech/xschem/sg13g2_tests/dc_hv_nmos.sch
**.subckt dc_hv_nmos
Vgs net1 GND 0.75
Vds net3 GND 1.5
Vd net3 net2 0
.save i(vd)
XM1 net2 net1 GND GND sg13_hv_nmos w=1.0u l=0.45u ng=1 m=1
**** begin user architecture code

.lib cornerMOShv.lib mos_tt



.options savecurrents
*.include dc_hv_nmos.save
.param temp=27
.control
save all
op
write dc_hv_nmos.raw
set appendwrite
dc Vds 0 3.0 0.01 Vgs 0.3 1.5 0.05
write dc_hv_nmos.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
